US04997954
4-(2'-Bromoethyl)-3-chloro-1,3-dihydro-2H-indol-2-one (23.6 g. 86 mmol), sodium hypophosphite hydrate (35 g) and 10% palladium/carbon (60% w/w wet, 2.6 g) were stirred in industrial methylated spirit (250 ml)/water (30 ml) at 80° C. The reaction was complete after 2 hours as monitored by HPLC. Inorganic components were removed by filtration and the organic solvent was removed in vaccuo. The solid residue was slurried in water (100 ml) and dried overnight to give 17.0 g (82%) of 4-(2'-bromoethyl)-1,3-dihydro-2H-indol-2-one.

reactant | 4-(2'-Bromoethyl)-3-chloro-1,3-dihydro-2H-indol-2-one | 86 mmol, 23.6 g | BrCCC1=C2C(C(NC2=CC=C1)=O)Cl | C10H9BrClNO
reactant | sodium hypophosphite hydrate | 35 g | O.[PH2](=O)[O-].[Na+]
catalyst | palladium/carbon | 2.6 g | [Pd] | Pd
solvent | water | 30 ml | O | H2O
product | 4-(2'-bromoethyl)-1,3-dihydro-2H-indol-2-one | 17.0 g, 82% | BrCCC1=C2CC(NC2=CC=C1)=O | C10H10BrNO
